US06635658B2
To a solution of 4-(7-bromo-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (610 mg, 1.5 mmol) and propionaldehyde (0.1 mL, 1.5 mmol) in dichloroethane (20 mL) under a nitrogen atmosphere was added sodium triacetoxyborohydride (795 mg, 3.75 mmol) in a single portion. The reaction was stirred at room temperature for 24 h then concentrated in vacuo. The residue was partitioned between EtOAc (75 mL) and 5% aq. KOH (50 mL). The aqueous phase was extracted twice more with EtOAc (2×30 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated onto silica (10 g). This was placed on top of a flash column and eluted with 20% hexanes in acetone. The fractions containing product were pooled and concentrated to afford 4-[(7-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidine-1-carboxylic acid tert-butyl ester (587 mg).

reactant | 4-(7-bromo-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.5 mmol, 610 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CC2=CC(=CC=C2CC1)Br | C20H29BrN2O2
reactant | propionaldehyde | 1.5 mmol, 0.1 mL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 3.75 mmol, 795 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | 4-[(7-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | 587 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCC)C1CC2=CC(=CC=C2CC1)Br | C23H35BrN2O2
